US08563577B2
Benzoyl chloride (1.60 ml, 13.8 mmol) was added to a suspension of 2-chloro-N′-hydroxyacetimidamide (I44) (1.0 g, 9.21 mmol) in DCM (25 ml), with stirring at room temperature. After 30 minutes, TEA (1.41 ml, 10.1 mmol) was added to the white suspension, and the mixture was stirred for additional 30 minutes. (UPLC-MS complete conversion). The solution was diluted with DCM (20 ml), and water (30 ml) was added. The aqueous phase was extracted three times with DCM (15 ml), and the combined organic phases were dried (Na2SO4), filtered and evaporated. The resulting residue is suspended in toluene (25 ml), and the mixture is heated to reflux for six hours and then at room temperature for two days. The dark solution was evaporated, and the crude product was purified by flash chromatography eluting with petroleum ether/EtOAc=95/5 to obtain 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole (803 mg, 44.8% yield) as a off-white solid.

reactant | Benzoyl chloride | 13.8 mmol, 1.60 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-chloro-N′-hydroxyacetimidamide | 9.21 mmol, 1.0 g | ClCC(N)=NO | C2H5ClN2O
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole | 803 mg, 44.8% yield | ClCC1=NOC(=N1)C1=CC=CC=C1 | C9H7ClN2O
